US07932272B2
C-(5-(4-Fluoro-phenoxy)-furan-2-yl)methylamine
A suspension of 5-(4-fluoro-phenoxy)-furan-2-carbaldehyde described in Preparation Example 168 (4.3 g, 20.9 mmol), Raney nickel (1.5 g) and 7N ammonia-methanol solution (40 mL) was stirred at room temperature for 15 hours under hydrogen atmosphere (1 atm). The reaction solution was filtered through Celite pad to remove the catalyst, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, filtered by NH silica gel lined over a glass filter, and then, this filtrate was concentrated to obtain the title compound (3.5 g, 16.9 mmol, 81%).

reactant | 5-(4-fluoro-phenoxy)-furan-2-carbaldehyde | FC1=CC=C(OC2=CC=C(O2)C=O)C=C1 | C11H7FO3
reactant | ammonia methanol | 7N, 40 mL | N.CO
catalyst | Raney nickel | 1.5 g | [Ni] | Ni
product | C-(5-(4-Fluoro-phenoxy)-furan-2-yl)methylamine | 16.9 mmol, 3.5 g, 81% | FC1=CC=C(OC2=CC=C(O2)CN)C=C1 | C11H10FNO2
